US05436359
2,3-Dimethoxy-6-(10-hydroxydecyl)-4-(2-pyridylmethyloxy)-5-methylphenol hydrochloride
A mixture of 1-acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-4-hydroxy-5-methylbenzene (2.1 g) obtained in Example A-5, 2-chloromethylpyridine hydrochloride (2 g), potassium carbonate (5 g) and dimethylformamide (15 ml) was stirred at room temperature for 16 hours. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was dissolved in methanol (20 ml). Aqueous 1N sodium hydroxide solution (20 ml) was added, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate, and the eluate was concentrated. The residue was dissolved by adding ethanol (30 ml), and conc. hydrochloric acid (0.7 ml) was added. The crystals obtained after concentration under reduced pressure were separated by filtration using ether to obtain the desired compound (1.7 g).

reactant | 1-acetoxy-6-(10-acetoxydecyl)-2,3-dimethoxy-4-hydroxy-5-methylbenzene | 2.1 g | C(C)(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C)=O)C)O)OC)OC | C23H36O7
reactant | 2-chloromethylpyridine hydrochloride | 2 g | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,3-Dimethoxy-6-(10-hydroxydecyl)-4-(2-pyridylmethyloxy)-5-methylphenol hydrochloride | 1.7 g | Cl.COC1=C(C(=C(C(=C1OC)OCC1=NC=CC=C1)C)CCCCCCCCCCO)O | InChI=1S/C25H37NO5.ClH/c1-19-21(15-10-8-6-4-5-7-9-13-17-27)22(28)24(29-2)25(30-3)23(19)31-18-20-14-11-12-16-26-20;/h11-12,14,16,27-28H,4-10,13,15,17-18H2,1-3H3;1H
